US08809352B2
To a solution of 2-methyl-4-{3-[4-((R)-3-morpholin-4-yl-1-phenylsulfonylmethylpropyl-amino)-3-trifluoromethanesulfonyl-benzenesulfonylamino]-5,6-dihydro-8H-[1,2,4]triazolo[4,3-a]pyrazin-7-yl}-piperidine-1-carboxylic acid tert-butyl ester (42 mg, 0.048 mmol) in CH2Cl2 (1 mL) under nitrogen was added trifluoroacetic acid (0.093 mL, 1.203 mmol) and the reaction was stirred for 2.5 hours. The reaction mixture was then concentrated and diluted with water and CH2Cl2. It was then basified to pH approximately 8 with saturated Na2CO3. The aqueous layer was extracted three times with CH2Cl2. The combined organic layers were washed with brine, dried over Na2SO4, filtered, and concentrated under reduced pressure to afford N-[7-(2-methyl-piperidin-4-yl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyrazin-3-yl]-4-((R)-3-morpholin-4-yl-1-phenylsulfanylmethyl-propylamino)-3-trifluoromethanesulfonyl-benzenesulfonamide (22 mg, 59% yield). MS [m/z; (M+1)+]: 773.6

reactant | 2-methyl-4-{3-[4-((R)-3-morpholin-4-yl-1-phenylsulfonylmethylpropyl-amino)-3-trifluoromethanesulfonyl-benzenesulfonylamino]-5,6-dihydro-8H-[1,2,4]triazolo[4,3-a]pyrazin-7-yl}-piperidine-1-carboxylic acid tert-butyl ester | 0.048 mmol, 42 mg | C(C)(C)(C)OC(=O)N1C(CC(CC1)N1CC=2N(CC1)C(=NN2)NS(=O)(=O)C2=CC(=C(C=C2)N[C@H](CCN2CCOCC2)CS(=O)(=O)C2=CC=CC=C2)S(=O)(=O)C(F)(F)F)C | C37H51F3N8O9S3
reactant | trifluoroacetic acid | 1.203 mmol, 0.093 mL | FC(C(=O)O)(F)F | C2HF3O2
solvent | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | N-[7-(2-methyl-piperidin-4-yl)-5,6,7,8-tetrahydro-[1,2,4]triazolo[4,3-a]pyrazin-3-yl]-4-((R)-3-morpholin-4-yl-1-phenylsulfanylmethyl-propylamino)-3-trifluoromethanesulfonyl-benzenesulfonamide | 22 mg, 59% yield | CC1NCCC(C1)N1CC=2N(CC1)C(=NN2)NS(=O)(=O)C2=CC(=C(C=C2)N[C@H](CCN2CCOCC2)CSC2=CC=CC=C2)S(=O)(=O)C(F)(F)F | C32H43F3N8O5S3
